US07790898B2
1-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-y]2,2-diphenyl-ethanone
The compound of Example 29 was prepared according to the general preparation protocol A from diphenylacetyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | 1-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-y]2,2-diphenyl-ethanone | OC1(CN(CCC1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC(=CC=C1)OC | C26H27NO3
